US08685959B2
Synthesis of ((R)-4-(1-((R)-1-(4-chloro-2-(trifluoromethyl)phenyl)ethyl)-1H-benzo[d]imidazol-6-yl)-2-methylpiperazin-1-yl)((R)-pyrrolidin-2-yl)methanone (see FIG. 17)
Trifluoroacetic acid (0.5 mL) was added to a solution of the crude 1-((R)-1-(4-chloro-2-(trifluoromethyl)phenyl)ethyl)-6-((R)-3-methylpiperazin-1-yl)-1H-benzo[d]imidazole (0.060 g, 0.1 mmol) in dichloromethane (1.5 mL) and the resulting solution was stirred at room temperature for 1 h. Excess solvent was removed in vacuo, and the residue was diluted with dichloromethane (10 mL). The organic layer was neutralized with saturated aqueous sodium bicarbonate, and the aqueous layer was further extracted with dichloromethane (2×15 mL) The combined organic layers were dried (Na2SO4), filtered, and concentrated in vacuo. The crude product was purified by flash chromatography (SiO2, 0-20% methanol in dichloromethane) to give the title compound as a white solid (0.027 g, 0.052 mmol, 52%). 1H NMR (400 MHz, CDCl3) δ 8.17 (s, 1 H), 7.71 (d, J=2.8 Hz, 1 H), 7.65 (d, J=9.2 Hz, 1 H), 7.37 (d, J=8.8 Hz, 1 H), 6.95-6.90 (m, 2 H), 6.49 (d, J=2.0 Hz, 1 H), 5.84 (q, J=6.8 Hz, 1 H), 4.78-4.84 (m, 1 H), 4.53-4.50 (m, 1 H), 4.25-4.20 (m, 1 H), 3.99-3.84 (m, 1 H), 3.88-3.82 (m, 1 H), 3.71-3.68 (m, 1 H), 3.54-3.51 (m, 1 H), 3.35-3.11 (m, 3 H), 2.87-2.75 (m, 2 H), 2.64-2.58 (m, 2 H), 1.99 (d, J=7.2 Hz, 3 H), 1.44-1.31 (m, 3 H); MS: (ES) m/z calculated for C26H30ClFN5O [M+H]+ 520.2, found 520.4.

reactant | Trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-((R)-1-(4-chloro-2-(trifluoromethyl)phenyl)ethyl)-6-((R)-3-methylpiperazin-1-yl)-1H-benzo[d]imidazole | 0.1 mmol, 0.060 g | ClC1=CC(=C(C=C1)[C@@H](C)N1C=NC2=C1C=C(C=C2)N2C[C@H](NCC2)C)C(F)(F)F | C21H22ClF3N4
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | ((R)-4-(1-((R)-1-(4-chloro-2-(trifluoromethyl)phenyl)ethyl)-1H-benzo[d]imidazol-6-yl)-2-methylpiperazin-1-yl)((R)-pyrrolidin-2-yl)methanone | 0.052 mmol, 0.027 g, 52% | ClC1=CC(=C(C=C1)[C@@H](C)N1C=NC2=C1C=C(C=C2)N2C[C@H](N(CC2)C(=O)[C@@H]2NCCC2)C)C(F)(F)F | C26H29ClF3N5O
